US07049438B2
A mixture of 7-benzyloxy-5-tetrahydropyran-4-yloxy-3,4-dihydroquinazolin-4-one (9 g), phosphoryl chloride (2.8 ml), di-isopropylethylamine (11.4 ml) and 1,2-dichloroethane (130 ml) was stirred and heated to 80° C. for 3 hours. The mixture was evaporated to give 7-benzyloxy-4-chloro-5-tetrahydropyran-4-yloxyquinazoline which was used without further purification.

reactant | 7-benzyloxy-5-tetrahydropyran-4-yloxy-3,4-dihydroquinazolin-4-one | 9 g | C(C1=CC=CC=C1)OC1=CC(=C2C(NC=NC2=C1)=O)OC1CCOCC1 | C20H20N2O4
reactant | phosphoryl chloride | 2.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | di-isopropylethylamine | 11.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 130 ml | ClCCCl | C2H4Cl2
product | 7-benzyloxy-4-chloro-5-tetrahydropyran-4-yloxyquinazoline | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)Cl)OC1CCOCC1 | C20H19ClN2O3
